Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Oxycodone
 
Attending: ___.
 
Chief Complaint:
incisional hernia
 
Major Surgical or Invasive Procedure:
- laparoscopic ventral hernia repair with mesh

 
History of Present Illness:
 This is a very pleasant, ___ female with multiple 
medical comorbidities including history of CVA, psoriasis, 
hypothyroidism, depression,
hyperlipidemia, symptomatic degenerative joint disease, aortic 
aneurysms, colovesical fistula, status post stapled down 
non-small cell lung cancer and  on chronic prednisone whom 
developed an incisional hernia after her laparotomy and 
colovesicular fistula takedown.  She was seeing Dr. ___ 
we repaired her hernia together.  We discussed the risks, 
benefits, and alternatives to laparoscopic incisional hernia 
repair with the patient including but not limited to, bleeding, 
chronic pain, numbness, infection, need for
additional procedure, hernia recurrence, death, disability, DVT, 
pulmonary embolism, injury to intestines, and other issues, and 
the patient does wish to go ahead and proceed with surgery.
 
Past Medical History:
Aortic Aneurysm
Hypertension
Dyslipidemia
Colonic polyps
Renal Insufficiency 1.45
History of ischemic CVA ___ visual disturbance)
COPD/Asthma
Uterine cancer
Right Lung Nodule, likely carcinoma
Giant Cell Arteritis/Polymyalgia Rheumatica (tx with steroids-
currently on Prednisone 5mg daily)
Obesity
Elevated HgbA1c (while on steroids)
Hypothyroidism
History of + PPD
Elevated CRP
Colovesicular fistula and Diverticulitis
Past Surgical History:
s/p Total Abd Hysterectomy
s/p Temporal artery biopsy
s/p Tonsillectomy
s/p Placement of left-sided ureteral stent, sigmoid colectomy,
takedown of colovesicular fistula, mobilization of splenic
flexure and diverting loop ileostomy
s/p Ileostomy takedown
 
Social History:
___
Family History:
Mother with abd aortic aneurysm. Both parents
with CVAs

 
Physical Exam:
DISCHARGE PHYSICAL EXAM:
Gen: NAD, AAOx3
HEENT: nc/at, mucosa moist and pink, oropharynx clear without 
exudate or erythema
CV: RRR, no m/r/g
Pulm: CTAB
Abd: BS+, soft, appropriately tender, distended/obese, 
laparoscopic incision sites covered with sterile gauze, c/d/i
MSK: no c/c/e
 
Pertinent Results:
OPERATIVE REPORT:
PROCEDURE NOTE:  The patient was identified in the
preoperative holding area.  Additional counseling was
performed.  She was brought to the operating room where a
safety check was performed confirming patient, procedure, as
well as proper prophylaxis.  When all points deemed correct,
she was then placed supine on the operating room table and
general anesthetic was administered without difficulty.  The
patient was then prepped and draped in usual sterile fashion
with chlorhexidine and Ioban.  A surgical time-out was then
performed confirming patient, procedure, as well as proper
prophylaxis.  When all points deemed correct, the procedure
began.  A Foley catheter was placed under sterile conditions.
After hard time-out was performed, injection of local
anesthetic into left upper quadrant with dissection through
the skin and subcutaneous tissue, and exposing the fascia
which was incised.  The muscle was spread and the peritoneum
was grasped.  This was opened under direct visualization.
The abdomen was then entered and 2 single 0 Vicryl stay
sutures were placed at the superior and inferior border of
the incision and the trocar was placed into the abdominal
wall.  The abdomen was insufflated to a pressure of 15 mmHg
without any untoward event.  An initial inspection of the
abdomen revealed no overt abnormality other than a moderate
amount of adhesions to the anterior abdominal wall and
multiple abdominal wall defects consistent with her known
history of incisional hernia.  Three additional 5 mm ports
were placed in the right lower quadrant and left upper
quadrant and right left lower quadrant, and a camera was
replaced with a 30 degree 5 mm scope.  Next, using a mixture
of traction, countertraction, and mostly sharp dissection,
and small amounts of cautery, meticulous lysis of adhesions
was accomplished over approximately 35-40 minutes.  Once all
hernia defects were reduced, it became clear that there were
multiple abdominal wall defects ranging in size from about 15
x 20 in order to afford several centimeters of overlap in
either direction and 25 x 20 cm Ventralight mesh was chosen
with an echo positioning system to repair this hernia.  Using
the rolling device provided with the system itself, this was
passed through the abdominal wall through the large trocar
site under direct visualization.  The middle of the hernia
was measured using a ruler and a using a fascial punch
device, the inflation tubing of the echo positioning device
was grasped.  This was pulled through the ___ the
hernia and inflated deploying the mesh.  Next, using a
mixture of traction, countertraction, and a Protac device,
the mesh was fixed into place circumferentially.  The echo
positioning device was then removed through the abdominal
wall.  Some additional tacking was done in the middle of the
mesh which clearly covered all the defects.  The abdomen was
insufflated.  The abdomen was then inspected for any evidence
of bleeding of which there were none and there was no overt
injury.  All ports were removed under direct visualization.
The positioning device was examined and found to be intact.
The left upper quadrant port was then closed with a running 0
Vicryl suture to good effect as well as some interrupted 0
Vicryl sutures at the level of the fascia.  All wounds were
copiously irrigated.  Additional local anesthetic was
administered.  ___ Monocryl was used for the skin.  Sponge
and instrument counts were correct times 2.  It should be
noted that ___, MD was the second surgeon for this
case.  His assistance was required.  I was present for the
entire procedure.
 
Brief Hospital Course:
Ms. ___ is a ___ with history of colovesical fistula status 
post laparotomy for fistula takedown in ___ who then developed 
an incisional hernia and is now status post laparoscopic ventral 
hernia repair, performed by ___ and ___. She was 
admitted to the ___ Surgery Service following her 
surgery.

Post-operatively, Ms. ___ did well. Her pain was easily 
controlled with oral opioids. She was restarted on her home 
medications on post-operative day 1, with associated stability 
in her blood pressure and respiratory function. It is worth 
noting Ms. ___ has a history of chronic obstructive pulmonary 
disease, asthma, and is also status post CyberKnife resection of 
a right lower lobe non-small cell lung carcinoma. Thus, her 
pulmonary function was followed particularly closely during her 
recovery. She initially required low volume supplemental oxygen 
delivered via nasal cannula. By post-op day 1, this had been 
weaned to a minimal flow rate ___ per minute). By post-op day 
2, she was ambulating on the floor with ease without associated 
subjective shortness of breath. Her oxygen saturations during 
ambulation did drop to the high 80%'s/low 90%'s, though this was 
to be expected given her extensive pulmonary history. 
Furthermore, Ms. ___ reported she has refused to discuss home 
oxygen with her pulmonologist in the past. Her pulmonary 
function was therefore determined to be rapidly approaching her 
baseline by POD2. With regard to bowel function, Ms. ___ 
recovered very well post-op. She was tolerating a regular diet 
and having normal bowel function by POD1. She had a temporary 
urinary catheter removed on the evening of POD1, and was voiding 
spontaneously by the following morning.

She was discharged to home, where she would receive care support 
from her sister, on the afternoon of POD2. She was instructed to 
follow-up with Dr. ___ ___ weeks of discharge. 
Additionally, she was instructed to follow-up with her 
pulmonologist and PCP for consideration of home oxygen.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Albuterol Inhaler ___ PUFF IH Q6H:PRN wheezing 
2. Fluticasone Propionate 110mcg 2 PUFF IH BID 
3. Tiotropium Bromide 1 CAP IH DAILY 
4. Atenolol 50 mg PO DAILY 
5. Hydrochlorothiazide 25 mg PO DAILY 
6. irbesartan *NF* 300 mg Oral daily 
7. BuPROPion (Sustained Release) 150 mg PO BID 
8. Fluoxetine 40 mg PO DAILY 
9. Levothyroxine Sodium 250 mcg PO DAILY 
10. PredniSONE 5 mg PO DAILY 
11. Aspirin 325 mg PO DAILY 
12. Vitamin B Complex 1 CAP PO DAILY 
13. Calcium Carbonate 500 mg PO BID 
14. Vitamin D 1000 UNIT PO DAILY 

 
Discharge Medications:
1. Albuterol Inhaler ___ PUFF IH Q6H:PRN wheezing 
2. Atenolol 50 mg PO DAILY 
3. BuPROPion (Sustained Release) 150 mg PO BID 
4. Calcium Carbonate 500 mg PO BID 
5. Fluoxetine 40 mg PO DAILY 
6. Fluticasone Propionate 110mcg 2 PUFF IH BID 
7. Hydrochlorothiazide 25 mg PO DAILY 
8. Levothyroxine Sodium 250 mcg PO DAILY 
9. PredniSONE 5 mg PO DAILY 
10. Tiotropium Bromide 1 CAP IH DAILY 
11. Aspirin 325 mg PO DAILY 
12. irbesartan *NF* 300 mg Oral daily 
13. Vitamin B Complex 1 CAP PO DAILY 
14. Vitamin D 1000 UNIT PO DAILY 
15. Acetaminophen 325-650 mg PO Q6H:PRN pain 
RX *acetaminophen 325 mg ___ tablet(s) by mouth q6hrs Disp #*60 
Tablet Refills:*0
16. Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 tablet(s) by mouth twice a day Disp 
#*60 Capsule Refills:*0
17. HYDROmorphone (Dilaudid) ___ mg PO Q3H:PRN pain 
RX *hydromorphone 2 mg ___ tablet(s) by mouth q3hrs Disp #*30 
Tablet Refills:*0
18. Senna 1 TAB PO DAILY 
RX *sennosides [senna] 8.6 mg 1 tablet by mouth daily Disp #*30 
Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY:
- ventral hernia, status post laparoscopic repair
- history of sigmoid colectomy/coloproctostomy/loop ileostomy

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

Thank you for choosing ___ for your medical care. You were 
admitted for a laparoscopic ventral hernia repair. Mesh was 
placed at the site of the hernia during your surgery, to lessen 
the likelihood your hernia recurs. You did well during and after 
your operation, and are ready for discharge home.

Upon discharge, please continue to take your medications as 
prescribed. If you are taking narcotics for pain control (e.g. 
oxycodone, Percocet, hydrocodone, Vicodin, hydromorphone, 
Dilaudid, or others), please avoid driving or drinking alcohol.

Please keep your abdominal binder on if you are experiencing 
discomfort. Additionally, please keep your surgical incisions 
clean and dry. You may shower, but avoid submersing your 
incisions (such as in a bathtub). Pat the area dry gently, avoid 
vigorous rubbing.

Please call Dr. ___ or come to the ER if you 
experience any of the following: chest pain, trouble breathing, 
loss of conciousness, recurrent hernia, fever, chills, opening 
of your incision, blood or pus-like discharge from your wounds, 
or any other symptoms that concern you.

Thank you for allowing us to participate in your care.
 
Followup Instructions:
___